US05968923
(e) 1-Aminosulphonyl-4-benzylpiperazine
A solution of 1-benzylpiperazine (5 g, 28.4 mmol) and sulphamide (2.77 g) in 1,4-dioxane (25 ml) was heated under reflux for 24 hours. The solution was cooled and poured into water (100 ml). The solid was filtered off, washed with toluene (100 ml) and dried under reduced pressure to give the title compound (4.75 g).

reactant | 1-benzylpiperazine | 28.4 mmol, 5 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sulphamide | 2.77 g | S(=O)(=O)(N)N | H4N2O2S
reactant | water | 100 ml | O | H2O
solvent | 1,4-dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 1-Aminosulphonyl-4-benzylpiperazine | 4.75 g | NS(=O)(=O)N1CCN(CC1)CC1=CC=CC=C1 | C11H17N3O2S
